US07968720B2
(rac.)-(1R*,5S*)-7-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-9-methyl-3,9-diaza-bicyclo[3.3.1]non-7-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester (B9)
BuLi (1.6M in hexane, 31.9 mL, 51.0 mmol) was added to a sol. of (4-bromo-phenoxy)-tert-butyl-dimethyl-silane (12.8 g, 44.5 mmol) in THF (150 mL) at −78° C. The mixture was stirred for 60 min at −78° C., and ZnCl2 (1.1M, 50.5 mL, 55.6 mmol) was added. The mixture was allowed to warm to rt, and a sol. of (rac.)-(1R*,5S*)-9-methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (WO 2003/093267; 17.0 g, 37.1 mmol) in THF (10 mL) and Pd(PPh3)4 (1.07 g, 0.927 mmol) were added. The mixture was stirred at 50° C. for 25 min, and was allowed to cool to rt. Aq. sat. NH4Cl was added, and the mixture was extracted with EtOAc (3×). The combined org. extracts were dried over Na2SO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 6:4) yielded the title compound (15.9 g, 83%). LC-MS: tR=0.95 min, ES+: 517.25.

reactant | BuLi | 51.0 mmol, 1.6M, 31.9 mL | [Li]CCCC
reactant | (4-bromo-phenoxy)-tert-butyl-dimethyl-silane | 44.5 mmol, 12.8 g | BrC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C12H19BrOSi
reactant | (rac.)-(1R*,5S*)-9-methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | 37.1 mmol, 17.0 g | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1OS(=O)(=O)C(F)(F)F)N2C)C(=O)OC(C)(C)C | C17H25F3N2O7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 55.6 mmol, 1.1M, 50.5 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.927 mmol, 1.07 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (rac.)-(1R*,5S*)-7-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-9-methyl-3,9-diaza-bicyclo[3.3.1]non-7-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester | 15.9 g, 83% | C(C)OC(=O)C1[C@H]2CN(C[C@@H](C=C1C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)N2C)C(=O)OC(C)(C)C | C28H44N2O5Si
